US07479502B2
Proceeding as in Reference 9, but substituting 5-methyl salicylaldehyde (3 g, 22 mmol) and N-bromosuccinimide (4.7 g, 26.4 mmol), gave 3-bromo-2-hydroxy-5-methylbenzaldehyde (3.6 g).

reactant | 5-methyl salicylaldehyde | 22 mmol, 3 g | CC1=CC=C(C(C=O)=C1)O | C8H8O2
reactant | N-bromosuccinimide | 26.4 mmol, 4.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 3-bromo-2-hydroxy-5-methylbenzaldehyde | 3.6 g | BrC=1C(=C(C=O)C=C(C1)C)O | C8H7BrO2
